US08334376B2
To a solution of (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 4-nitrophenyl carbonate (20 mg, 0.036 mmol) in CH2Cl2 was added 4-aminobutanoic acid (37.1 mg, 0.36 mmol, 10 eq), DIEA (18.6 mg, 0.144 mmol, 4 eq) and DMAP (16.1 mg, 0.144 mmol, 4 eq). The resultant mixture was stirred at 40° C. for 16 h and then purified via preparative TLC to afford 4-(((3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yloxy)carbonylamino)butanoic acid (10 mg, 53.5%) as a white solid. LRMS (M−H+) m/z 514.4. 1H NMR (CD3OD, 400 MHz) δ 7.89 (dd, J=9.6, 2.4 Hz, 1H), 7.33 (m, 1H), 6.18 (d, J=9.6 Hz, 1H), 4.82 (m, 1H), 3.03 (m, 2H), 2.44-2.48 (m, 1H), 1.08-2.15 (m, 25H), 0.87 (s, 3H), 0.62 (s, 3H).

reactant | (3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 4-nitrophenyl carbonate | 0.036 mmol, 20 mg | C(O[C@H]1CC[C@@]2([C@H]3CC[C@@]4([C@H](CC[C@@]4([C@@H]3CC[C@@H]2C1)O)C=1C=CC(OC1)=O)C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C31H37NO8
reactant | 4-aminobutanoic acid | 0.36 mmol, 37.1 mg, 10 eq | NCCCC(=O)O | C4H9NO2
reactant | DIEA | 0.144 mmol, 18.6 mg, 4 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.144 mmol, 16.1 mg, 4 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(((3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yloxy)carbonylamino)butanoic acid | 10 mg, 53.5% | O[C@]12[C@@H]3CC[C@@H]4C[C@H](CC[C@@]4([C@H]3CC[C@@]2([C@H](CC1)C=1C=CC(OC1)=O)C)C)OC(=O)NCCCC(=O)O | C29H41NO7
